US04525308
Preparation of 7-Hydroxy-1,1,5-trimethylheptyl Peroxypivalate (C-1)
A jacketed reactor equipped with a mechanical stirrer, a thermometer and a dropping funnel was charged with 9.3 g (0.075 mole) of 45% KOH, 4.7 g of water and 11.3 g (0.058 mole) of 97.3% 7-hydroxy-1,1,5-trimethylheptyl hydroperoxide. To this vigorously stirred solution at 30° C. was slowly added 6.4 g (0.050 mole) of 94.3% pivaloyl chloride over a period of 20 minutes. The resulting mixture was then vigorously stirred for one hour at 30° C. after which it was cooled to 15° C. and 100 ml of pentane and 25 ml of water were added. After separating and discarding the aqueous phase the product solution was washed at 10° to 15° C. with 20 g of buffered sodium sulfite solution (consisting of 0.8 g of acetic acid, 1.2 g of sodium acetate, 2.0 g of sodium sulfite and 16 g of water), with 15 ml of water and then with 20 g of 7.7% sodium hydrogen carbonate solution. The resulting pentane solution was then dried over anhydrous MgSO4 and after separation of the spent desiccant by filtration the pentane was removed in vacuo at 0° to 10° C. leaving 8.2 g of liquid product. The assay of the product according to peroxyester active oxygen was 69.6% and the corrected yield was 41.7%. An infrared spectrum of the product showed a strong, broad OH band centered at 3400 to 3500 cm-1.

reactant | KOH | 0.075 mole, 9.3 g | [OH-].[K+]
reactant | 7-hydroxy-1,1,5-trimethylheptyl hydroperoxide | 0.058 mole, 11.3 g | OCCC(CCCC(C)(C)OO)C | C10H22O3
reactant | pivaloyl chloride | 0.050 mole, 6.4 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | water | 25 ml | O | H2O
solvent | pentane | 100 ml | CCCCC | C5H12
solvent | water | 4.7 g | O | H2O
product | 7-Hydroxy-1,1,5-trimethylheptyl Peroxypivalate | 8.2 g, yield was 41.7% | C(C(C)(C)C)(=O)OOC(CCCC(CCO)C)(C)C | C15H30O4
